US07378427B2
N-(2′-Acetyl-5′-fluoro-1,1′-biphenyl-2-yl)-4-methoxy-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide
To a solution of 2-([(4-methoxyphenyl)sulfonyl]{[2-(trimethylsilyl)ethoxy]methyl}amino) phenylboronic acid (3.31 g, 7.57 mmol) and tetrakis(triphenylphosphine) palladium (0) (0.87 g, 0.76 mmol) in dimethoxyethane (30 niL) under argon was added 1-(2-bromo-5-fluorophenyl)ethanone (1.86 g, 8.57 mmol) in ethanol (1 mL). Aqueous sodium carbonate (2 M, 40 mL) was added and the reaction mixture was heated at 90° C. for 14 hours. The solvent was removed in vacuo and the residue was partitioned between water and ethyl acetate. The organic layer was washed with water and a saturated, aqueous sodium chloride solution. After drying over anhydrous magnesium sulfate, the organic phase was filtered and the filtrate was evaporated in vacuo to yield the crude title compound as an oil. Purification by silica gel column chromatography by elution with hexane-ethyl acetate (5:1) gave the title compound as a pale yellow oil, which crystallized on standing (2.22 g, 4.19 mmol, 55 %), m.p. 94-95° C.

reactant | 2-([(4-methoxyphenyl)sulfonyl]{[2-(trimethylsilyl)ethoxy]methyl}amino) phenylboronic acid | 7.57 mmol, 3.31 g | COC1=CC=C(C=C1)S(=O)(=O)N(C1=C(C=CC=C1)B(O)O)COCC[Si](C)(C)C | C19H28BNO6SSi
reactant | 1-(2-bromo-5-fluorophenyl)ethanone | 8.57 mmol, 1.86 g | BrC1=C(C=C(C=C1)F)C(C)=O | C8H6BrFO
reactant | sodium carbonate | 2 M, 40 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethoxyethane | C(OC)COC | C4H10O2
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.76 mmol, 0.87 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-(2′-Acetyl-5′-fluoro-1,1′-biphenyl-2-yl)-4-methoxy-N-{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide | C(C)(=O)C1=C(C=C(C=C1)F)C1=C(C=CC=C1)N(S(=O)(=O)C1=CC=C(C=C1)OC)COCC[Si](C)(C)C | C27H32FNO5SSi
